US06716843B2
(S)-N-{2-[2-Amino-3-oxo-3-(1,3-thiazolidin-3-yl)propylthio]-ethyl}-methanesulphonamide Hydrochloride
Starting from (S)-3-(2-{[benzyloxycarbonyl]-amino}-ethylthio)-N-(tert-butyloxy-carbonyl)-alanine, methanesulphonyl chloride and 1,3-thiazolidine, the expected product is obtained according to the procedure described in Example 37.

reactant | (S)-3-(2-{[benzyloxycarbonyl]-amino}-ethylthio)-N-(tert-butyloxy-carbonyl)-alanine | C(C1=CC=CC=C1)OC(=O)NCCSC[C@@H](NC(=O)OC(C)(C)C)C(=O)O | C18H26N2O6S
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1,3-thiazolidine | S1CNCC1 | C3H7NS
product | (S)-N-{2-[2-Amino-3-oxo-3-(1,3-thiazolidin-3-yl)propylthio]-ethyl}-methanesulphonamide Hydrochloride | Cl.N[C@H](CSCCNS(=O)(=O)C)C(N1CSCC1)=O | InChI=1S/C9H19N3O3S3.ClH/c1-18(14,15)11-2-4-16-6-8(10)9(13)12-3-5-17-7-12;/h8,11H,2-7,10H2,1H3;1H/t8-;/m1./s1
